US08871756B2
N-[2-(2,3-Dihydro-1,4-benzoxazepin-4(5H)-yl)quinolin-4-yl]ethane-1,2-diamine
The mixture of 4-(4-chloroquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine (100 mg, 0.32 mmol) and 1.6 mL of ethane-1,2-diamine was heated with stirring in a 5 mL microwave process vial for 3 hours at 150° C. under microwave irradiation. The mixture was concentrate in vacuo to give a residue which was purified by preparative HPLC to give 31 mg of product as a white solid. MS obsd. (ESI+) [(M+H)+] 335. 1H NMR (400 MHz, CD3OD) δ ppm 8.61 (s, 1 H), 7.90 (d, J=7.6 Hz, 1 H), 7.60-7.51 (m, 3 H), 7.23 (brs, 2 H), 7.09-6.98 (m, 2 H), 6.05 (s, 1 H), 4.89 (s, 2 H), 4.27 (s, 2 H), 4.25 (s, 2 H), 3.61 (s, 2 H), 3.15 (s, 2 H).

reactant | 4-(4-chloroquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine | 0.32 mmol, 100 mg | ClC1=CC(=NC2=CC=CC=C12)N1CCOC2=C(C1)C=CC=C2 | C18H15ClN2O
reactant | ethane-1,2-diamine | 1.6 mL | C(CN)N | C2H8N2
product | N-[2-(2,3-Dihydro-1,4-benzoxazepin-4(5H)-yl)quinolin-4-yl]ethane-1,2-diamine | 31 mg | O1CCN(CC2=C1C=CC=C2)C2=NC1=CC=CC=C1C(=C2)NCCN | C20H22N4O
